datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:12][O:15][H:16],-0.14644
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][H:15],14.644
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:12])([H:9])([H:10])[H:11],29.0788
[C:0]([C:1](=[C:2]=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5]>>[C:0]([C:1](=[C:2]=[C:3][H:8])[H:6])([H:4])([H:5])[H:7],238.119808
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16][C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:16](=[C:15]([H:18])[H:19])[C:17]([H:20])([H:21])[H:22])[H:7],3.17984
[H:0].[S:1]>>[H:0][S:1],0.0
[C:0](=[C:1]([C:2]#[C:3][C:4]#[C:5][H:8])[H:7])[H:6].[O:9][H:10]>>[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:8])[H:6].[H:7][O:9][H:10],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][O:35],7.397312
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[S:19])[H:26])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:20])([H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[S:19])[H:26],47.2792
[C:0]1([H:5])([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14].[Cl:15]>>[C:0]1([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14].[H:5][Cl:15],2.41951
[C:0](=[N+:1][O-:2])([H:3])[H:4].[H:5]>>[C:0](#[N+:1][O-:2])[H:4].[H:3][H:5],-3.72376
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0]([C:1](=[N:2][H:7])[H:6])([H:4])[H:5].[H:3][C:8]([H:9])([H:10])[H:11],23.961768
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:6])[H:5],8.70272
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]1([H:15])([H:16])[C:9]([H:17])([H:18])[C:10]2([H:19])[C:11]([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]1([H:24])[C:14]2([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8]1([H:16])[C:9]([H:17])([H:18])[C:10]2([H:19])[C:11]([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]1([H:24])[C:14]2([H:25])[H:26],79.496
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:9])([H:17])[H:18])([H:15])[H:16])[O:7][O:8][H:19])([H:10])[H:11],83.68
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]([H:11])[H:12]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:11])([H:5])([H:6])[H:7].[S:10][H:12],85.772
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:4]([H:17])[H:18])[H:16])[O:7][O:8][H:19])([H:9])([H:10])[H:11].[O:5][O:6][H:15],118.8256
[C:0](#[C:1][C:2]=[C:3]([C:4]#[C:5][H:8])[H:7])[H:6].[O:9][H:10]>>[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:8])[H:6].[H:7][O:9][H:10],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([O:5][O:6][H:17])[H:9])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([O:5][O:6][H:17])[H:9])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3]([C:4](=[C:5]([C:6]([H:16])[H:17])[H:14])[H:13])([H:11])[H:12])([H:7])([H:8])[H:15],89.1192
[C:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6]>>[C:0](=[N:1][H:5])([H:2])[H:3].[H:4][O:6],-3.72376
